US06541504B1
N-[1-(2-Oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-acetamide
To a solution of 3-(5-Amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (50.0 mg, 0.189 mmol) and N,N-diisopropylethylamine (98.8 μL, 0.567 mmol) in 2.0 mL THF was added acetyl chloride (13.4 μL, 0.189 mmol). After stirring at room temperature for 3 h, the mixture was concentrated in vacuo and the solid triturated with MeOH. Filtering the mixture and rinsing with MeOH and hexanes/EtOAc (7:3) afforded the title compound (42.2 mg, 73%) as a yellow solid.

reactant | 3-(5-Amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 0.189 mmol, 50.0 mg | NC=1C=C2COC(C2=CC1)=C1C(NC2=CC=CC=C12)=O | C16H12N2O2
reactant | N,N-diisopropylethylamine | 0.567 mmol, 98.8 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.189 mmol, 13.4 μL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | N-[1-(2-Oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-acetamide | 42.2 mg, 73% | O=C1NC2=CC=CC=C2C1=C1OCC2=CC(=CC=C12)NC(C)=O | C18H14N2O3
